US07456169B2
1-(4-chloro-2-methoxyphenyl)propan-1-one
4-Chloro-2-methoxy-benzaldehyde (0.54 g, 3.2 mmol) in 10 mL of THF was treated with 3.0 M EtMgBr (2 mL, 6.0 mmol) at room temperature. The solution was stirred for 1 hour and quenched with MeOH. The solution was poured into water, treated 10 mL of 10% HCl, extracted with EtOAc several times. The combined organic layers were washed brine, dried (MgSO4), filtered, and concentrated. The residue was diluted with CH2Cl2, treated with PCC (1.33 g, 6.4 mmol) for 2 hours. The reaction mixture was filtered through a pack of silica gel to give 0.42 g of the title compound. MS (DCI) m/e 199 (M+H)+.

reactant | 4-Chloro-2-methoxy-benzaldehyde | 3.2 mmol, 0.54 g | ClC1=CC(=C(C=O)C=C1)OC | C8H7ClO2
reactant | EtMgBr | 6.0 mmol, 3.0 M, 2 mL | CC[Mg+].[Br-]
reactant | PCC | 6.4 mmol, 1.33 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-chloro-2-methoxyphenyl)propan-1-one | 0.42 g | ClC1=CC(=C(C=C1)C(CC)=O)OC | C10H11ClO2
